US06013841
3,4-Dimethoxytoluene
In a 1 L, 3-necked flask was placed 500.0 g of 4-methylcatechol (4.03 mole, 1.0 eq.), 808 mL of toluene (5 mole/L) and 404 mL of water (10 mole/L). The flask was fitted with an overhead mechanical stirrer, thermocouple probe and a dropping funnel. The dropping funnel was charged with 357.1 g of sodium hydroxide (8.86 mole, 2.2 eq.) dissolved in 748 mL of water (11.8 mole/L). Dimethyl sulfate (838 mL, 8.87 mole, 1.1 eq.) was added to the flask. The contents of the flask were stirred well and the sodium hydroxide solution was added slowly to the flask. The temperature of the reaction rose to 35° C., at which point the addition of sodium hydroxide was slowed, such that the temperature did not exceed 35° C. External cooling by means of a chilled water bath applied. After the addition of sodium hydroxide was complete, the flask was removed from the chilled water bath and stirred until the temperature of the mixture returned to room temperature (~1.5 hours). Stirring was stopped. The phases were separated. The aqueous phase was extracted with fresh toluene (150 mL). The combined organic phases were dried over anhydrous potassium carbonate, filtered and concentrated by fraction distillation at atmospheric pressure. The crude product was purified by vacuum fractional distillation to provide a total of 559.6 g of the desired product.

reactant | 4-methylcatechol | 4.03 mole, 500.0 g, 1.0 eq. | CC=1C=C(C(O)=CC1)O | C7H8O2
reactant | toluene | 5 mole/L, 808 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 8.86 mole, 357.1 g, 2.2 eq. | [OH-].[Na+]
reactant | Dimethyl sulfate | 8.87 mole, 838 mL, 1.1 eq. | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 11.8 mole/L, 748 mL | O | H2O
solvent | water | 10 mole/L, 404 mL | O | H2O
product | 3,4-Dimethoxytoluene | 559.6 g | COC=1C=C(C=CC1OC)C | C9H12O2
